US05756505
1-[4-(4-fluorobenzyloxy)-3-isobutylbenzoyl]-4-[2-(piperonyloyloxy)ethyl]piperazine
1-[4-(4-fluorobenzyloxy)-3-isobutylbenzoyl]-4-(2-hydroxyethyl) piperazine (1.95 g) was dissolved in a mixture of dichloromethane (30 ml) and triethylamine (1.04 ml) and then, while being cooled with ice, piperonyloyl chloride (0.93 g) was added thereto dropwise. After being stirred for 12 hours at room temperature, the reaction mixture was washed with saturated aqueous sodium hydrogencarbonate solution and saturated brine successively, dried over sodium sulfate anhydride, and then concentrated under a vacuum. Thus obtained residue was purified by silica gel column chromatography (chloroform:methanol=50:1), thereby yielding 1.92 g of the aimed compound.

reactant | 1-[4-(4-fluorobenzyloxy)-3-isobutylbenzoyl]-4-(2-hydroxyethyl) piperazine | 1.95 g | FC1=CC=C(COC2=C(C=C(C(=O)N3CCN(CC3)CCO)C=C2)CC(C)C)C=C1 | C24H31FN2O3
reactant | piperonyloyl chloride | 0.93 g | C(C1=CC=2OCOC2C=C1)(=O)Cl | C8H5ClO3
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | triethylamine | 1.04 ml | C(C)N(CC)CC | C6H15N
product | 1-[4-(4-fluorobenzyloxy)-3-isobutylbenzoyl]-4-[2-(piperonyloyloxy)ethyl]piperazine | 1.92 g | FC1=CC=C(COC2=C(C=C(C(=O)N3CCN(CC3)CCOC(C3=CC=4OCOC4C=C3)=O)C=C2)CC(C)C)C=C1 | C32H35FN2O6
